US06897224B2
2-Methoxy-5-nitroquinoline
A suspension of 1 g (5 mmol) of 5-nitroquinoline-1-oxide, 1.23 g (6.4 mmol) of toluenesulfonic acid chloride and 1.4 ml (9.9 mmol) of triethylamine in 30 ml of MeOH is stirred for 20 hours at room temperature. The solid is suctioned off and washed with MeOH: 565 mg of light yellow product.

reactant | 5-nitroquinoline-1-oxide | 5 mmol, 1 g | [N+](=O)([O-])C1=C2C=CC=[N+](C2=CC=C1)[O-] | C9H6N2O3
reactant | toluenesulfonic acid chloride | 6.4 mmol, 1.23 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 9.9 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | MeOH | 30 ml | CO | CH4O
product | 2-Methoxy-5-nitroquinoline | COC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H8N2O3
